US07452911B2
3.39c 6-bromo-3-(2-pyrrolidin-1-yl-ethyl)-3H-imidazo[4,5-b]pyridine
A solution of 470 mg (1.65 mmol) 5-bromo-N2-(2-pyrrolidin-1-yl-ethyl)-pyridine-2,3-diamine in 10 mL formic acid is refluxed for 1.5 h. The mixture is made alkaline with saturated K2CO3 solution and extracted with 40 mL EtOAc. The organic phase is dried over Na2SO4 and the solvent is eliminated i.vac.

reactant | 5-bromo-N2-(2-pyrrolidin-1-yl-ethyl)-pyridine-2,3-diamine | 1.65 mmol, 470 mg | BrC=1C=C(C(=NC1)NCCN1CCCC1)N | C11H17BrN4
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | formic acid | 10 mL | C(=O)O | CH2O2
product | 6-bromo-3-(2-pyrrolidin-1-yl-ethyl)-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C=N2)CCN2CCCC2 | C12H15BrN4
